US06492401B1
Ethyl 5-cyclopropyl-1-(2-methylsulfonylphenyl)-1H-pyrazole-4-carboxylate
A solution of ethyl 5-cyclopropyl-1-(2-methylthiophenyl)-1H-pyrazole-4-carboxylate (0.456 g, 1.51 mmol) in methanol (6 mL) at 0° C. was treated with a solution of oxone (1.40 g, 2.27 mmol) in water (6 mL). The resulting slurry was was stirred at 23° C. for 8 h. The mixture was treated with additional oxone (0.46 g, 0.76 mmol), stirred for 14 h and partitioned between CH2Cl2 and water. The organic layer was washed with water, dried over MgSO4 and concentrated in vacuo to afford 0.504 g (100%) of the title compound.

reactant | ethyl 5-cyclopropyl-1-(2-methylthiophenyl)-1H-pyrazole-4-carboxylate | 1.51 mmol, 0.456 g | C1(CC1)C1=C(C=NN1C1=C(C=CC=C1)SC)C(=O)OCC | C16H18N2O2S
reactant | oxone | 2.27 mmol, 1.40 g | OOS(=O)[O-].[K+]
reactant | oxone | 0.76 mmol, 0.46 g | OOS(=O)[O-].[K+]
reactant | methanol | 6 mL | CO | CH4O
solvent | water | 6 mL | O | H2O
product | Ethyl 5-cyclopropyl-1-(2-methylsulfonylphenyl)-1H-pyrazole-4-carboxylate | 0.504 g, 100% | C1(CC1)C1=C(C=NN1C1=C(C=CC=C1)S(=O)(=O)C)C(=O)OCC | C16H18N2O4S
